US09290490B2
To a cooled (0° C.) solution of (methoxymethyl)triphenylphosphonium chloride (60.4 g, 176 mmol) in THF (250 mL) was added KOtBu (1 M in THF, 176 mL, 176 mmol) at such a rate that the internal temperature did not exceed 5° C. When the addition was complete, the resulting mixture was stirred for 1 h at which point ethyl 4-oxocyclohexanecarboxylate (20 g, 118 mmol) was introduced as a solution in THF (200 mL). The reaction mixture was allowed to warm slowly to room temperature where it was stirred for 18 h. The vessel was then immersed in an ice bath and water (100 mL) was added followed by 6N HCl (250 mL). The cooling bath was removed and the reaction stirred until hydrolysis was complete by TLC (˜2 h) at which point it was diluted with water and EtOAc. The layers were separated, the organics dried with MgSO4, filtered, and concentrated in vacuo to afford ethyl 4-formylcyclohexanecarboxylate (23 g) as a 3:2 mixture of trans:cis isomers. This colorless oil was used directly in the subsequent step without further manipulation.

reactant | (methoxymethyl)triphenylphosphonium chloride | 176 mmol, 60.4 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | KOtBu | 176 mmol, 1 M, 176 mL | CC(C)(C)[O-].[K+]
reactant | ethyl 4-oxocyclohexanecarboxylate | 118 mmol, 20 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | HCl | 6N, 250 mL | Cl | ClH
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | ethyl 4-formylcyclohexanecarboxylate | 23 g | C(=O)C1CCC(CC1)C(=O)OCC | C10H16O3
